US04240988
Triphenyl phosphite-bromine kinetic complex
To a solution of 1.6 gm of bromine in 30 ml of methylene chloride at -45° C. was added a solution of 3.1 grams of triphenyl phosphite in 5 ml of methylene chloride. After warming the product solution to room temperature it was studied by 31P nuclear magnetic resonance (nmr). The 31P nmr spectrum initially indicated 1 major component having a signal at -3.7 ppm relative to the phosphoric acid 31P resonance signal. This signal decreased in intensity with time as a signal at 22.4 ppm increased in intensity. From the 31P nmr data the half-life (t 1/2) for the initial product was determined to be about 39 hours.

reactant | bromine | 1.6 gm | BrBr | Br2
reactant | triphenyl phosphite | 3.1 grams | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Triphenyl phosphite bromine | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1.BrBr | InChI=1S/C18H15O3P.Br2/c1-4-10-16(11-5-1)19-22(20-17-12-6-2-7-13-17)21-18-14-8-3-9-15-18;1-2/h1-15H;
